US06534546B1
Synthesis of 2-(5-methoxy-2-nitrophenyl)ethylamine
To a solution of 2-(3-methoxyphenyl)ethylamine (1.51 g) in chloroform (30 ml), fuming nitric acid (specific gravity=1.52; 0.84 ml) and sulfuric acid (1.07 ml) were successively added dropwise under ice cooling and stirred under ice cooling for 3 h. Water and 2 N aqueous sodium hydroxide solution were added to the reaction mixture, which was extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, dried with anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluent, chloroform:methanol=9:1) to give 400 mg of the titled compound (yield, 21%)

reactant | 2-(3-methoxyphenyl)ethylamine | 1.51 g | COC=1C=C(C=CC1)CCN | C9H13NO
reactant | Water | O | H2O
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | nitric acid | 0.84 ml | [N+](=O)(O)[O-] | HNO3
solvent | chloroform | 30 ml | C(Cl)(Cl)Cl | CHCl3
solvent | sulfuric acid | 1.07 ml | S(O)(O)(=O)=O | H2O4S
product | 2-(5-methoxy-2-nitrophenyl)ethylamine | 400 mg, 21% | COC=1C=CC(=C(C1)CCN)[N+](=O)[O-] | C9H12N2O3
